US08022062B2
3-tert-Butoxycarbonyl-6-[2-(tert-butyl-dimethylsilanyloxy)ethylthio]-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Use a method similar to the Preparation 177, using 3-tert-butoxycarbonyl-6-dimethylcarbamoylthio-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[d]azepine and (2-bromoethoxy)-tert-butyldimethylsilane to give the desired intermediate.

reactant | 3-tert-butoxycarbonyl-6-dimethylcarbamoylthio-7-trifluoromethyl-2,3,4,5-tetrahydro-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C(F)(F)F)SC(N(C)C)=O | C19H25F3N2O3S
reactant | (2-bromoethoxy)-tert-butyldimethylsilane | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
product | 3-tert-Butoxycarbonyl-6-[2-(tert-butyl-dimethylsilanyloxy)ethylthio]-7-trifluoromethyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)C(F)(F)F)SCCO[Si](C)(C)C(C)(C)C | C24H38F3NO3SSi
